US08648066B2
6-Chloropyrimidin-4-ol (500 mg, 3.85 mmol), aniline (420 μL, 4.62 mmol) and N,N-diisopropylethylamine (1 mL) in diethylene glycol dimethyl ether (5 mL) was heated to 120° C. and stirred for 8 h. The mixture was cooled to room temperature then diluted with actone:diethyl ether solution (1:1, 15 ml) to give a precipitate. The solid collected by filtration and washed with acetone then dried to afford 6-(phenylamino)pyrimidin-4-ol (255 mg, 35.5%). MS (EI) for C10H9N3O: 188.2 (MH+).

reactant | 6-Chloropyrimidin-4-ol | 3.85 mmol, 500 mg | ClC1=CC(=NC=N1)O | C4H3ClN2O
reactant | aniline | 4.62 mmol, 420 μL | NC1=CC=CC=C1 | C6H7N
reactant | N,N-diisopropylethylamine | 1 mL | C(C)(C)N(C(C)C)CC | C8H19N
reactant | diethyl ether | 15 ml | C(C)OCC | C4H10O
solvent | diethylene glycol dimethyl ether | 5 mL | COCCOCCOC | C6H14O3
product | 6-(phenylamino)pyrimidin-4-ol | 255 mg, 35.5% | C1(=CC=CC=C1)NC1=CC(=NC=N1)O | C10H9N3O
